US07855292B2
(±)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-5-chloro-N-[2-(3,4-dichloro-phenyl)-propyl]-benzamide
The title compound was prepared from 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-5-chloro-benzoic acid and (±)-2-(3,4-dichloro-phenyl)-propylamine hydrochloride as in EXAMPLE 1, Part C. HPLC: RT=11.76 min. MS (ESI−): mass calcd. for C22H17Cl3N4O3S2, 553.98; m/z found, 553/555 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.05 (s, 1H), 8.30 (dd, J=7.0, 1.0, 1H), 8.21 (d, 8.0, 1H), 7.70-7.66 (m, 1H), 7.65-7.63 (m, 1H), 7.41 (d, J=8.2, 1H), 7.29 (dd, J=4.6, 2.1, 2H), 7.05 (dd, J=9.6, 2.1, 2H), 5.80 (s, 1H), 3.67-3.60 (m, 1H), 3.32-3.26 (m, 1H), 3.02-2.97 (m, 1H), 1.30 (d, J=7.0, 3H).

reactant | 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-5-chloro-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=C(C=C2)Cl | C13H8ClN3O4S2
reactant | (±)-2-(3,4-dichloro-phenyl)-propylamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C(CN)C
product | (±)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-5-chloro-N-[2-(3,4-dichloro-phenyl)-propyl]-benzamide | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)NCC(C)C1=CC(=C(C=C1)Cl)Cl)C=C(C=C2)Cl | C22H17Cl3N4O3S2
